US06451500B1
A] Benzyl tris(hydroxyethyl)ammonium bromide was synthesized from triethanolamine and benzyl bromide using the procedure of Rengan et al (J.Chem.Soc.Chem.Commun., 10, 1992, 757).

reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | Benzyl tris(hydroxyethyl)ammonium bromide | [Br-].C(C1=CC=CC=C1)[N+](CCO)(CCO)CCO | InChI=1S/C13H22NO3.BrH/c15-9-6-14(7-10-16,8-11-17)12-13-4-2-1-3-5-13;/h1-5,15-17H,6-12H2;1H/q+1;/p-1
